US04072696
1 G. of 2-acetamido-1-amino4-phenylsulfinylbenzene in 30 ml. acetone is treated overnight with 2 g. methoxycarbonyl isothiocyanate. The solution is concentrated and the residue triturated with ether. Recrystallization yields 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-4-phenylsulfinylbenzene.

reactant | 2-acetamido-1-amino4-phenylsulfinylbenzene | C(C)(=O)NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)N | C14H14N2O2S
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-acetamido-1-(3-methoxycarbonyl-2-thioureido)-4-phenylsulfinylbenzene | C(C)(=O)NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)NC(=S)NC(=O)OC | C17H17N3O4S2
